US08497281B2
(1H-Benzoimidazol-5-yl)-[cis-6-(tetrahydro-pyran-4-yl)-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl]-methanone
A mixture of (1H-benzoimidazol-5-yl)-[6-(3,6-dihydro-2H-pyran-4-yl)-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl]-methanone (48 mg), 10% palladium on carbon (10 mg), and methanol (3 mL) is shaken under hydrogen atmosphere (5 bar) at room temperature overnight. The catalyst is then separated by filtration and the filtrate is concentrated. The residue is purified by chromatography on silica gel (dichloromethane/methanol 1:0→9:1) to afford the title compound. Yield: 15 mg (31% of theory); LC (method 1): tR=2.63 min; Mass spectrum (ESI+): m/z=402 [M+H]+.

reactant | (1H-benzoimidazol-5-yl)-[6-(3,6-dihydro-2H-pyran-4-yl)-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl]-methanone | 48 mg | N1C=NC2=C1C=CC(=C2)C(=O)N2C1C(CCC2)C=2C=C(C=CC2C1)C=1CCOCC1 | C25H25N3O2
catalyst | palladium on carbon | 10 mg | [Pd] | Pd
solvent | methanol | 3 mL | CO | CH4O
product | (1H-Benzoimidazol-5-yl)-[cis-6-(tetrahydro-pyran-4-yl)-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl]-methanone | N1C=NC2=C1C=CC(=C2)C(=O)N2[C@@H]1[C@H](CCC2)C=2C=C(C=CC2C1)C1CCOCC1 | C25H27N3O2
